US05773428
(3R,10S)-5-Methyl-3-(9-oxo-1,8-diazatricyclo[10.6.1.013,18 ]nonadeca-12(19),13(18),14,16-tetraen-10-ylcarbamoyl)hexanoic acid (183 mg) was taken up in 40 mL of dry CH2Cl2 and at 0° C. ethanol (0.5 mL, 5 eq) was added followed by N,N-dimethylaminopyridine (0.1 eq, 5 mg) and finally EDCI (209 mg, 5 eq). The resulting solution was stirred from 0° C. to room temperature overnight. Additional CH2Cl2 (100 mL) was added and the mixture was washed with 0.5N HCl (2×50 mL), saturated NaHCO3 (2×50 mL) and finally with brine (1×50 mL). The organic layer was dried over Na2 SO4, filtered and evaporated to dryness. Recrystallization from ethyl acetate and petroleum ether gave (3R,10S)-5-Methyl-3-(9-oxo-1,8-diazatricyclo[10.6.1.013,18 ]nonadeca-12(19),13(18),14,16-tetraen-10-ylcarbamoyl)hexanoic acid ethyl ester as a white solid (Yield: 108 mg, 55%), MS: 470 (M+H)+.

reactant | (3R,10S)-5-Methyl-3-(9-oxo-1,8-diazatricyclo[10.6.1.013,18 ]nonadeca-12(19),13(18),14,16-tetraen-10-ylcarbamoyl)hexanoic acid | 183 mg | CC(C[C@H](CC(=O)O)C(N[C@@H]1C(NCCCCCCN2C=3C=CC=CC3C(C1)=C2)=O)=O)C | C25H35N3O4
reactant | ethanol | 0.5 mL, 5 eq | C(C)O | C2H6O
reactant | EDCI | 209 mg, 5 eq | CCN=C=NCCCN(C)C | C8H17N3
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | (3R,10S)-5-Methyl-3-(9-oxo-1,8-diazatricyclo[10.6.1.013,18 ]nonadeca-12(19),13(18),14,16-tetraen-10-ylcarbamoyl)hexanoic acid ethyl ester | Yield: 108 mg, 55% | C(C)OC(C[C@@H](CC(C)C)C(N[C@@H]1C(NCCCCCCN2C=3C=CC=CC3C(C1)=C2)=O)=O)=O | C27H39N3O4
